US09353066B2
Palladium(II) acetate (33.5 mg, 0.149 mmol) was added to a mixture of (1S)-1-(3′-amino-5′-fluorobiphenyl-4-yl)-2,2-difluoroethanol (222 mg, 0.747 mmol), cesium carbonate (487 mg, 1.494 mmol), and 2-chloro-4-(trifluoromethyl)pyrimidine (143 mg, 0.784 mmol) in degassed (by sparging with Argon) dioxane (8 mL). The mixture was heated to 110° C. for 5 hours. Upon cooling to room temperature, the reaction mixture was diluted with saturated aqueous NaHCO3, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/toluene) to afford (1S)-2,2-difluoro-1-(3′-fluoro-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)ethanol. MS ESI calc'd. for C19H14F6N3O [M+H]+ 414, found 414. 1H NMR (500 MHz, Acetone-d6): δ 9.48 (s, 1H); 8.89 (d, J=4.9 Hz, 1H); 8.02 (d, J=2.1 Hz, 1H); 7.89 (dd, J=11.4, 2.4 Hz, 1H); 7.76 (d, J=8.0 Hz, 2H); 7.63 (d, J=8.0 Hz, 2H); 7.32 (d, J=4.9 Hz, 1H); 7.19-7.15 (m, 1H); 6.01 (td, J=55.9, 4.3 Hz, 1H); 5.37 (d, J=4.9 Hz, 1H); 5.00-4.93 (m, 1H).

reactant | (1S)-1-(3′-amino-5′-fluorobiphenyl-4-yl)-2,2-difluoroethanol | 0.747 mmol, 222 mg | NC=1C=C(C=C(C1)F)C1=CC=C(C=C1)[C@@H](C(F)F)O | C14H12F3NO
reactant | cesium carbonate | 1.494 mmol, 487 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.784 mmol, 143 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
catalyst | Palladium(II) acetate | 0.149 mmol, 33.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1S)-2,2-difluoro-1-(3′-fluoro-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)ethanol | FC([C@@H](O)C1=CC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)F)F | C19H13F6N3O
